* Four tubes + two transformers + global NFB (Pultec-like topology)
* Stage 1: 12AX7 differential pair (anti-phase from HS-29 secondaries)
* Stage 2: 12AU7 push-pull output into S-217-D primary halves
* NFB: S-217-D tertiary -> stage 1 cathode
*
.model 12AX7 TRIODE(MU=100 EX=1.4 KG1=1060 KP=600 KVB=300)
.model 12AU7 TRIODE(MU=21.5 EX=1.3 KG1=1180 KP=84 KVB=300)

* Power supply
Vcc vcc 0 DC 290

* === INPUT TRANSFORMER (HS-29: 3-winding, 130H, k=0.99) ===
L_in_pri in in_ct 130
L_in_sec_a grid_tap_a in_ct2 130
L_in_sec_b in_ct2 fb_inject 130
K_in1 L_in_pri L_in_sec_a 0.99
K_in2 L_in_pri L_in_sec_b 0.99
K_in3 L_in_sec_a L_in_sec_b 0.98
Rct1 in_ct 0 100
Rct1b in_ct2 0 100
Rfb_inject fb_inject fb_node 1

* === STAGE 1: 12AX7 differential pair ===
Rg1a grid_tap_a grid1a 100k
Rg1a_leak grid1a 0 1Meg
T1a grid1a plate1a cathode 12AX7
Ra1a vcc plate1a 100k

Rg1b fb_inject grid1b 100k
Rg1b_leak grid1b 0 1Meg
T1b grid1b plate1b cathode 12AX7
Ra1b vcc plate1b 100k

* Shared cathode (unbypassed for NFB)
Rk cathode fb_node 820

* === STAGE 2: 12AU7 push-pull ===
* Grid bias
Vbias bias_node 0 DC 31
Rbias1 bias_node grid2a 470k
Rbias2 bias_node grid2b 470k

* Coupling caps
Cc_a plate1a grid2a 10n
Cc_b plate1b grid2b 10n

T2a grid2a plate2a cathode2 12AU7
T2b grid2b plate2b cathode2 12AU7
Ra2a vcc plate2a 100k
Ra2b vcc plate2b 100k
Rk2 cathode2 0 4.7k

* === OUTPUT TRANSFORMER (S-217-D: 4-winding, 9.5H) ===
L_opt_a plate2a opt_ct 9.525
L_opt_b opt_ct plate2b 9.525
L_opt_sec out 0 1.903
L_fb_a fb_s5 fb_s3 2.4
K_opta L_opt_a L_opt_sec 0.95
K_optb L_opt_b L_opt_sec 0.95
K_optab L_opt_a L_opt_b 0.95
K_fba L_opt_a L_fb_a 0.95
K_fbb L_opt_b L_fb_a 0.95
K_sec_fb L_opt_sec L_fb_a 0.95

* Center tap
Rct2 opt_ct 0 100

* Tertiary DC ground reference
R_fb_dcref fb_s5 0 1Meg

* === FEEDBACK ===
R_fb_shunt fb_s3 fb_s5 1000
R_fb_a fb_s3 cathode 360
R_fb_b fb_s5 fb_node 360

* Output load
Rload out 0 100k

* Stability caps
C1a grid1a 0 1n
C1b grid1b 0 1n
C2a plate1a 0 100p
C2b plate1b 0 100p
C3a plate2a 0 100p
C3b plate2b 0 100p
C4 out 0 100p
