* Minimal tube + transformer with NFB
* Single 12AX7 triode, 3-winding transformer (pri/sec/tert), NFB from tertiary
* Tests whether simultaneous NR can converge with transformer-coupled feedback
*
* Signal: in -> Cin -> grid, plate -> transformer primary -> secondary -> out
* Feedback: tertiary -> Rfb -> cathode
*
.model 12AX7 TRIODE(MU=100 EX=1.4 KG1=1060 KP=600 KVB=300)

* Power supply
Vcc vcc 0 DC 250

* Input coupling
Cin in grid 100n
Rg grid 0 1Meg

* Triode
T1 grid plate cathode 12AX7

* Plate load
Ra vcc plate 100k

* Cathode bias (unbypassed for NFB)
Rk cathode 0 1.5k

* Output transformer (Pultec-scale: 130H, k=0.99)
L_pri plate xfmr_ct 130
L_sec out 0 26
L_tert fb_n fb_p 13
K1 L_pri L_sec 0.99
K2 L_pri L_tert 0.99
K3 L_sec L_tert 0.99

* Transformer center tap to ground
Rct xfmr_ct 0 10

* Feedback from tertiary to cathode
Rfb fb_p cathode 1k
Rfb_gnd fb_n 0 100

* Output load
Rload out 0 10k

* Stability caps
C1 plate 0 100p
C2 out 0 100p
